US07160882B2
b) 6-methoxy-4,4-dimethyl-1,4-dihydro-benzo[1,3]oxazin-2-one
47.4 g (0.2 mol) ethyl (2-acetyl-4-methoxy-phenyl)-carbamate, dissolved in 275 mL THF, are added dropwise to a solution of 0.5 mol methylmagnesium iodide in 200 mL diethyl ether while cooling so that the temperature does not exceed 0° C. The mixture is stirred for 30 minutes at ambient temperature and then for 2 hours at reflux temperature. The reaction mixture is poured onto ice and combined with ammonium chloride. After the organic phase has been separated off it is repeatedly extracted with ethyl acetate. The organic phases are combined, washed with water, dried with sodium sulphate and evaporated down. The residue is dissolved in methanol and the solution is evaporated down and then combined with water. The precipitate formed is separated off, washed with water and recrystallised from toluene. Yield: 31.1 g (75%); m.p.=178–180° C.

reactant | ethyl (2-acetyl-4-methoxy-phenyl)-carbamate | 0.2 mol, 47.4 g | C(C)(=O)C1=C(C=CC(=C1)OC)NC(OCC)=O | C12H15NO4
reactant | methylmagnesium iodide | 0.5 mol | C[Mg]I
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | THF | 275 mL | C1CCOC1 | C4H8O
product | 6-methoxy-4,4-dimethyl-1,4-dihydro-benzo[1,3]oxazin-2-one | COC=1C=CC2=C(C(NC(O2)=O)(C)C)C1 | C11H13NO3
